* Z:\mnt\design.r\spice\examples\3423.asc
XU1 N006 N002 N001 N003 0 N002 OUT N007 N005 N002 LTC3423
R1 N006 0 30.1K
R2 N004 0 82K
R3 OUT N007 110K
R4 N007 0 249K
V1 N002 0 3
C1 OUT 0 44µ Rser=.1
V2 N001 0 1.2
L1 N001 N003 2.2µ
C2 N005 N004 470p
D1 N003 OUT 1N5817
Rload OUT 0 30
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LTC3423.sub
.backanno
.end
