* Z:\mnt\design.r\spice\examples\3425.asc
XU1 0 MP_01 N001 OUT OUT N002 0 MP_02 0 OUT 0 N006 N008 N007 N005 N012 0 MP_03 N003 OUT OUT N004 0 MP_04 MP_05 0 N011 N009 IN MP_06 IN N010 LTC3425
L1 IN N001 2.7µ Rpar=2K
V1 IN 0 1.8
R1 N011 0 75K
R2 N009 0 15K
R3 N007 0 20K
C2 N007 0 .001µ
C3 N010 0 1000p
C4 N008 0 330p Rser=33K
R4 OUT N006 1Meg
R5 N006 0 590K
C5 OUT N006 22p Rser=10K
C6 OUT 0 4.7µ Rser=.01 x4
R6 OUT 0 50
L2 IN N002 2.7µ Rpar=2K
L3 IN N003 2.7µ Rpar=2K
L4 IN N004 2.7µ Rpar=2K
.tran .75m startup
.lib LTC3425.sub
.backanno
.end
