* Z:\mnt\design.r\spice\examples\3428.asc
R1 OUT N005 383K
R2 N005 0 121K
V1 IN 0 2.8
C1 OUT 0 22µ Rser=100m
L1 IN N001 2.2µ
D1 N001 OUT 1N5817
XU1 0 N001 OUT IN N003 N005 0 IN N004 0 LTC3428
D2 N004 OUT 1N5817
L2 IN N004 2.2µ
R3 N002 0 10K
C2 N003 N002 1000p
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
.lib LTC3428.sub
.backanno
.end
