* Z:\mnt\design.r\spice\examples\3429.asc
XU1 N001 0 N002 IN OUT IN LTC3429
L1 IN N001 4.7µ Rpar=5K
V1 IN 0 2
R1 OUT N002 1.02Meg
R2 N002 0 604K
C1 OUT 0 10µ Rser=1m
Rload OUT 0 20
.tran 1.5m startup
.lib LTC3429.sub
.backanno
.end
