* Z:\mnt\design.r\spice\examples\3444.asc
L1 N001 N002 2.2µ
V1 IN 0 3.6
R1 OUT N003 340K
R2 N003 0 267K
C1 OUT 0 4.7µ Rser=10m
XU1 IN N001 0 N002 OUT IN 0 N003 LTC3444
V2 N004 0 PULSE(.28 2.36 100u 10u 10u 140u 300u)
R3 N004 N003 205K
Iload OUT 0 100m
.tran 650u startup
.lib LTC3444.sub
.backanno
.end
