* Z:\mnt\design.r\spice\examples\3446.asc
V1 IN 0 3.6
L1 N001 OUT1 1.8µ
C1 OUT1 0 22µ
R1 OUT1 N003 59K
R2 N003 0 47.5K
C2 OUT2 0 2.2µ
R3 OUT2 N002 110K
R4 N002 0 40.2K
XU1 0 IN N004 NC_01 OUT2 OUT1 OUT3 IN N005 N002 IN N003 IN N001 0 LTC3446
C3 N004 0 1000p Rser=3.3K
C4 OUT3 0 2.2µ
R5 OUT3 N005 80.6K
R6 N005 0 40.2K
Rload1 OUT1 0 4.5
Rload2 OUT2 0 5
Rload3 OUT3 0 4
.tran 1.5m startup
.lib LTC3446.sub
.backanno
.end
