* Z:\mnt\design.r\spice\examples\3448.asc
XU1 N002 OUT OUT IN N001 0 MP_01 IN 0 LTC3448
V1 IN 0 3.3
L1 N001 OUT 2.2µ
R1 OUT N002 474K
R2 N002 0 316K
C1 OUT N002 22p
C2 OUT 0 15µ
Rload OUT 0 2.5
.tran 200u startup
.lib LTC3448.sub
.backanno
.end
