* Z:\mnt\design.r\spice\examples\3454.asc
L1 N001 N002 5µ
V1 N003 0 3.6
R1 0 N006 20.5K
XU1 N003 N003 N006 N008 N005 N002 N004 N007 N003 N001 0 LTC3454
R2 0 N008 3.65K
C2 N007 0 .01µ
D1 N004 N005 LXK2-PW14
C3 N004 0 10µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
.lib LTC3454.sub
.backanno
.end
