* Z:\mnt\design.r\spice\examples\3460.asc
L1 IN N001 22µ Rpar=2K
V1 IN 0 5
D1 N001 OUT MBR0540
C1 OUT 0 1µ
R1 OUT N003 130K
R2 N003 0 15K
C2 OUT N003 22p
Rload OUT 0 171
R3 IN N002 10K
C3 N002 0 .1µ
XU1 N001 0 N003 N002 IN LT3460
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
.lib LT3460.sub
.backanno
.end
