* Z:\mnt\design.r\spice\examples\3461.asc
L1 IN N001 15µ
V1 IN 0 5
C1 0 OUT 2.2µ
R1 OUT N003 261K
R2 N003 0 30.1K
XU1 N001 0 N003 N002 OUT IN LT3461
Rload OUT 0 300
C2 N003 OUT 15p
V2 N002 0 PWL(0 0 1m 5)
.tran 600u startup
.lib LT3461.sub
.backanno
.end
