* Z:\mnt\design.r\spice\examples\3465.asc
L1 IN N001 22µ
V1 IN 0 5
C1 N002 0 .22µ
R1 N005 0 10
XU1 N002 0 N005 IN IN N001 LT3465
D1 N002 N003 NSPW500BS
D3 N004 N006 NSPW500BS
D2 N003 N004 NSPW500BS
D4 N006 N005 NSPW500BS
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT3465.sub
.backanno
.end
