* Z:\mnt\design.r\spice\examples\3473.asc
XU1 N003 OUT IN N005 N002 N004 IN N001 0 LT3473
L1 IN N001 6.8µ
R1 N003 N005 2Meg
R2 N005 0 100K
C1 N003 0 .47µ
C2 OUT 0 2.2µ
V1 IN 0 3.6
Rload OUT 0 312.5
R4 IN N004 100K
C3 N004 0 .1µ
R5 N002 IN 10K
.tran 6m startup
.lib LT3473.sub
.backanno
.end
