* Z:\mnt\design.r\spice\examples\3476.asc
L1 N003 N005 10µ Rpar=5K
V1 N004 0 5
C1 N007 0 5n Rser=4.7K
D1 N002 N003 QTLP690C
XU1 N007 N008 N006 N005 N002 N001 N004 N006 N004 N004 0 LT3476
R2 N001 N002 .1
C2 N001 N003 .1µ
V3 N001 0 33
R1 N008 0 21K
D2 N005 N001 1N5817
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT3476.sub
.backanno
.end
