* Z:\mnt\design.r\spice\examples\3489.asc
V1 IN 0 3.3
XU1 N002 N003 IN 0 N001 IN N002 N004 LT3489
L1 IN N001 2.2µ
D1 N001 OUT 1N5818
C1 OUT 0 20µ
R1 OUT N003 28.7K
R2 N003 0 5.23K
C2 N004 0 .001µ
Rload OUT 0 13
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
.lib LT3489.sub
.backanno
.end
