* Z:\mnt\design.r\spice\examples\3513.asc
V1 IN 0 17
L1 N014 N015 4.7µ
D1 N001 N002 1N5818
C1 N002 0 10µ
R1 N002 N004 53.6K
R2 N004 0 10K
R3 N002 N005 100K
R4 IN N003 178K
R5 N003 0 60.4K
C2 N008 0 .001µ
C3 N010 0 .001µ
C4 N011 0 .001µ
C5 N013 0 .01µ
R6 22 N016 232K
C6 22 0 .47µ
L2 5 N001 10µ
C7 N012 N014 .22µ
D2 0 N014 1N5818
R7 5 N017 30.1K
R8 N017 0 10K
C8 5 0 22µ
Q2 5 N019 3.3 0 ZTX1048A
R9 3.3 N021 42.2K
R10 N021 0 10K
C9 3.3 0 10µ
C10 N023 0 .0027µ Rser=7.5K
C11 N024 0 .0047µ Rser=4.7K
C12 N025 0 .0015µ Rser=30K
C13 N026 0 .0022µ Rser=13K
L3 5 N018 6.8µ
XU1 N021 N023 N011 N022 N010 N018 N020 22 N016 0 N005 N025 N013 MP_01 N001 MP_02 MP_03 5 N004 N024 N026 N008 N009 N007 N006 N019 IN N012 MP_04 5 N015 N017 MP_05 N014 MP_06 IN MP_07 N003 0 LT3513
R11 N020 N022 165K
R12 N022 0 10K
C14 N020 0 2.2µ
L4 5 N006 10µ
C15 N006 N007 .47µ
D3 -10 N007 1N5818
R13 N009 0 10K
R14 N009 -10 69.8K
C16 -10 0 2.2µ
Rload1 5 0 10
Rload2 8 0 100
Rload3 22 0 1.1K
Rload4 -10 0 500
Rload5 3.3 0 {6.6*2}
M§Q1 8 N005 N002 N002 IRF7404
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m startup
.lib LT3513.sub
.backanno
.end
