* Z:\mnt\design.r\spice\examples\3521.asc
V1 IN 0 3
R1 OUT1 N005 1Meg
R2 N005 0 221K
C2 OUT1 0 22µ
L1 N002 OUT2 4.7µ
R3 OUT2 N004 137K
R4 N004 0 68.1K
C3 OUT2 0 10µ
L2 N001 N003 4.7µ
Rload2 OUT2 0 3
Rload1 OUT1 0 4
XU1 IN NC_01 NC_02 NC_03 IN 0 IN N005 IN IN IN 0 MP_04 N003 N001 OUT1 N006 0 MP_05 N002 0 IN N007 N004 LTC3521
L3 N006 OUT3 4.7µ
R5 OUT3 N007 100K
R6 N007 0 100K
C1 OUT3 0 10µ
Rload3 OUT3 0 2
.tran 750u startup
.lib LTC3521.sub
.backanno
.end
