* Z:\mnt\design.r\spice\examples\3527.asc
L1 IN N002 4.7µ Rpar=2K
XU1 IN N003 0 IN OUT1 N001 N002 OUT2 IN 0 N004 IN NC_01 0 IN NC_02 LTC3527
R1 OUT2 N004 619K
R2 N004 0 1.21Meg
C1 OUT2 0 4.7µ
L2 IN N001 4.7µ Rpar=2K
R3 OUT1 N003 1.78Meg
R4 N003 0 1Meg
C2 OUT1 0 4.7µ
V1 IN 0 2.5
Rload1 OUT1 0 22
Rload2 OUT2 0 12
.tran 350u startup
.lib LTC3527.sub
.backanno
.end
