* Z:\mnt\design.r\spice\examples\3530.asc
L1 N001 N002 4.7µ Rpar=1K
V1 IN 0 2.8
R1 IN N003 1Meg
C1 N003 0 .002µ
R2 OUT N005 340K
R3 N005 0 200K
C2 N005 N007 470p Rser=15K
C3 OUT 0 22µ
R4 N006 0 33.2K
R5 N004 0 100K
C4 N004 0 .01µ
C5 OUT N005 100p Rser=4.7K
XU1 N006 N004 N001 N002 0 OUT IN N003 N005 N007 LTC3530
Rload OUT 0 6.6
.tran 2m startup
.lib LTC3530.sub
.backanno
.end
