* Z:\mnt\design.r\spice\examples\3531.asc
XU1 N001 IN 0 IN N003 OUT N002 0 LTC3531
L1 N001 N002 10µ
R1 OUT N003 340K
R2 N003 0 200K
V1 IN 0 2
C1 OUT 0 10µ
Rload OUT 0 40
.tran 500u startup
.lib LTC3531.sub
.backanno
.end
