* Z:\mnt\design.r\spice\examples\3532.asc
XU1 N006 N004 N001 N002 0 OUT IN IN N003 N005 LTC3532
L1 N001 N002 4.7µ Rpar=1K
V1 IN 0 3.2
R1 N006 0 43.2K
R2 N004 0 200K
C1 N004 0 .01µ
R3 OUT N003 340K
R4 N003 0 200K
C3 N005 N003 330p Rser=12.1K
C4 OUT 0 10µ
Rload OUT 0 30
C5 OUT N003 33p Rser=1K
.tran 500u startup
.lib LTC3532.sub
.backanno
.end
