* Z:\mnt\design.r\spice\examples\3533.asc
L1 N001 N002 2.2µ Rpar=1K
V1 IN 0 2.8
R1 IN N003 1Meg
C1 N003 0 .002µ
R2 OUT N005 340K
R3 N005 0 200K
C2 N005 N007 330p Rser=107K Cpar=4.7p
C3 OUT 0 47µ
XU1 N006 N004 0 N001 0 MP_01 N002 OUT OUT IN IN N003 N005 N007 LTC3533
R4 N006 0 33.2K
R5 N004 0 215K
C4 N004 0 .1µ
C5 OUT N005 47p Rser=6.49K
C6 IN 0 10µ
Rload OUT 0 2.2
.tran 2.5m startup
.lib LTC3533.sub
.backanno
.end
