* Z:\mnt\design.r\spice\examples\3538.asc
XU1 N005 N006 0 N003 N004 N002 N001 N003 LTC3538
L1 N001 N002 3.3µ
V1 N003 0 3
R1 N004 N005 464K
R2 N005 0 200K
C2 N006 N005 330p Rser=15K
C3 N004 0 22µ Rser=10m
C4 N004 N005 33p Rser=10K
Rload N004 0 5
.tran 2.5m startup
.lib LTC3538.sub
.backanno
.end
