* Z:\mnt\design.r\spice\examples\3541.asc
V1 IN 0 3.6
L1 N001 OUT1 2.2µ
C1 OUT1 0 10µ
R1 OUT1 N002 243K
C2 OUT1 N002 22p
R2 N002 0 115K
C3 OUT2 0 2.2µ
R3 OUT2 N003 412K
R4 N003 0 150K
Rload2 OUT2 0 5
Rload1 OUT1 0 12.5
XU1 IN IN N002 N003 OUT2 OUT1 0 0 IN N001 LTC3541
.tran 1.5m startup
.lib LTC3541.sub
.backanno
.end
