* Z:\mnt\design.r\spice\examples\3544.asc
V1 IN 0 3.6
L1 N002 OUT1 10µ
C1 OUT1 0 4.7µ
R1 OUT1 N003 59K
R2 N003 0 118K
L2 N005 OUT2 3.3µ
C2 OUT2 0 4.7µ
R3 OUT2 N007 133K
R4 N007 0 107K
L3 N001 OUT3 3.3µ
C3 OUT3 0 4.7µ
R5 OUT3 0 100K
L4 N004 OUT4 4.7µ
C4 OUT4 0 4.7µ
R6 OUT4 N006 93.1K
R7 N006 0 107K
XU1 N006 OUT3 IN N004 N001 0 IN N005 IN N007 N003 IN N002 0 IN IN LTC3544
Rload1 OUT1 0 12
Rload2 OUT2 0 6
Rload3 OUT3 0 4
Rload4 OUT4 0 7.5
.tran 900u startup
.lib LTC3544.sub
.backanno
.end
