* Z:\mnt\design.r\spice\examples\3550.asc
V1 USB 0 5
R1 N005 0 2K
XU1 USB N003 N005 NC_01 NC_02 N002 BAT 0 MP_03 N001 BAT NC_04 NC_05 N004 BAT USB LTC3550
V2 BAT 0 4
R2 N004 0 1.24K
L1 N001 OUT 2.2µ
R3 OUT N002 301K
R4 N002 0 301K
C1 OUT N002 22p
C2 OUT 0 10µ
R5 N003 0 2K
Rload OUT 0 2
.tran 150u startup
.lib LTC3550.sub
.backanno
.end
