* Z:\mnt\design.r\spice\examples\3560.asc
V1 IN 0 3.6
L1 N001 OUT 1.5µ
R1 OUT N002 806K
R2 N002 0 402K
C1 OUT N002 10p
C2 OUT 0 10µ
XU1 IN 0 N001 IN N002 0 LTC3560
Rload OUT 0 2.25
.tran 2m startup
.lib LTC3560.sub
.backanno
.end
