* Z:\mnt\design.r\spice\examples\3565.asc
L1 N001 out 2.2µ
R1 out N002 931K
V1 IN 0 4
R2 N002 0 294K
R3 N005 0 191K
C1 out 0 22µ
C2 N004 0 680p Rser=12.1K
R4 IN N003 100K
C3 out N002 22p
XU1 N005 IN IN N001 0 IN IN N003 N002 N004 LTC3565
Rload out 0 2
.tran 1.5m startup
.lib LTC3565.sub
.backanno
.end
