* Z:\mnt\design.r\spice\examples\3568.asc
L1 N001 OUT 1.7µ
R1 OUT N003 412K
V1 IN 0 5
R2 N003 0 332K
R3 N004 0 324K
C1 OUT 0 100µ Rser=10m
C2 N005 0 1000p Rser=13K
R4 IN N002 100K
XU1 N004 IN 0 N001 0 IN IN N002 N003 N005 LTC3568
C3 OUT N003 47p
Rload OUT 0 1
.tran 1m startup
.lib LTC3568.sub
.backanno
.end
